US08168802B2
A solution of isoamylnitrite (0.27 g, 2.3 mmol), diiodomethane (1 mL), and chloroform (5 mL) was heated at 85° C. under a nitrogen atmosphere. A mixture of 5-amino-1-(2-methylpropyl)-1H-imidazole-4-carbonitrile (0.1 g, 0.6 mmol) and chloroform (5 mL) was added over a period of 15 minutes followed by a rinse with chloroform (2 mL). The reaction was stirred and heated at 80° C. for an additional 10 minutes, allowed to cool to room temperature, and concentrated under reduced pressure. The residue was purified through a layer of silica gel (eluting sequentially with chloroform, 2% methanol in chloroform, 4% methanol in chloroform, and 8% methanol in chloroform) to provide 0.15 g (90%) of 5-iodo-1-(2-methylpropyl)-1H-imidazole-4-carbonitrile as an orange solid.

reactant | isoamylnitrite | 2.3 mmol, 0.27 g | C(CC(C)C)ON=O | C5H11NO2
reactant | diiodomethane | 1 mL | ICI | CH2I2
reactant | 5-amino-1-(2-methylpropyl)-1H-imidazole-4-carbonitrile | 0.6 mmol, 0.1 g | NC1=C(N=CN1CC(C)C)C#N | C8H12N4
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-iodo-1-(2-methylpropyl)-1H-imidazole-4-carbonitrile | 0.15 g, 90% | IC1=C(N=CN1CC(C)C)C#N | C8H10IN3
